US03994791
Preparation of dibenzoyl selenide
A sodium selenide solution is initially prepared by the reaction of about 3.2 grams (0.04 moles) of selenium powder with about 3 grams (0.08 moles) sodium borohydride in water according to the method described by D. L. Klayman et al, J. Am. Chem. Soc. 95, 197 (1973). The flask containing the sodium hydrogen selenide solution is purged of air with nitrogen and about 11.2 grams (0.08 moles) benzoyl chloride and about 10 grams sodium bicarbonate added to the reaction mixture with mild agitation. The ingredients within the flask are allowed to react at room temperature under nitrogen for 14 hours. The solid products are separated from the reaction medium by filtration, washed with water and recrystallized from a benzene/hexane solution to yield colorless needle like crystals, (m.p. 60°- 61° C).

reactant | sodium selenide | [Se-2].[Na+].[Na+]
reactant | selenium | 0.04 moles, about 3.2 grams | [Se] | Se
reactant | sodium borohydride | 0.08 moles, about 3 grams | [BH4-].[Na+]
reactant | sodium hydrogen selenide | [SeH2].[Na]
reactant | benzoyl chloride | 0.08 moles, about 11.2 grams | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium bicarbonate | about 10 grams | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | dibenzoyl selenide | C(C1=CC=CC=C1)(=O)[Se]C(C1=CC=CC=C1)=O | C14H10O2Se
